US04970213
The reaction is carried out under the conditions of Reference Example 1 but starting from 1 g of 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid and 3 g of 2-methylpiperazine in 10 cm3 of pyridine. The pure product is obtained after a supplementary purification by recrystallization from 200 cm3 of dimethylformamide. 0.5 g of 1-cyclopropyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid hemihydrate is obtained in the form of a yellow solid melting at 343° C.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C2CC2)C1)F | C16H10ClFN2O3
reactant | 2-methylpiperazine | 3 g | CC1NCCNC1 | C5H12N2
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]-naphthyridine-3-carboxylic acid hemihydrate | 0.5 g | O.C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C)=O)C(=O)O.C3(CC3)N3C=C(C(C=1C=C2C(=NC31)C=C(C(=C2)F)N2CC(NCC2)C)=O)C(=O)O | InChI=1S/2C21H21FN4O3.H2O/c2*1-11-9-25(5-4-23-11)18-8-17-12(7-16(18)22)6-14-19(27)15(21(28)29)10-26(13-2-3-13)20(14)24-17;/h2*6-8,10-11,13,23H,2-5,9H2,1H3,(H,28,29);1H2
